US07064124B2
N-[5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(4-pyridylmethyloxy)benzoyl]piperidine
4-Pyridinemethanol (0.254 g, 2.33 mmol), triphenylphosphine (0.611 g, 2.33 mmol) and diethylazodicarboxylate (0.406 g, 2.33 mmol) were added to a benzene solution (30 ml) of N-[5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-hydroxybenzoyl]piperidine (0.500 g, 1.17 mmol) and the resulting solution was stirred at room temperature for 12 hours. The reaction solution was poured into an aqueous 2N sodium hydroxide solution (15 ml) and then extracted with methylene chloride. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was purified by silica gel column chromatography (hexand:ethyl acetate=1:5) to obtain the titled compound (0.375 g, 0.721 mmol, 62%).

reactant | 4-Pyridinemethanol | 2.33 mmol, 0.254 g | N1=CC=C(C=C1)CO | C6H7NO
reactant | triphenylphosphine | 2.33 mmol, 0.611 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 2.33 mmol, 0.406 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | N-[5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-hydroxybenzoyl]piperidine | 1.17 mmol, 0.500 g | COC=1C(=C(CC=2C=CC(=C(C(=O)N3CCCCC3)C2)O)C(=C(C1OC)OC)OC)C | C24H31NO6
reactant | sodium hydroxide | 2N, 15 ml | [OH-].[Na+]
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | N-[5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(4-pyridylmethyloxy)benzoyl]piperidine | 0.721 mmol, 0.375 g, 62% | COC=1C(=C(CC=2C=CC(=C(C(=O)N3CCCCC3)C2)OCC2=CC=NC=C2)C(=C(C1OC)OC)OC)C | C30H36N2O6
